US08017607B2
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (30.6 mg, 0.0723 mmol), ethyl acrylate (73.7 mg, 0.728 mmol, Aldrich) and samarium(III) trifluoromethanesulfonate (34.9 mg, 0.0572 mmol) in THF (1.5 mL) were heated for 3 h at 160° C. in a microwave tube. The reaction mixture was then diluted with CH2Cl2, extracted with water, and saturated NaCl. The organic phase was separated, dried over Na2SO4, and purified by flash column to give rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-propionic acid ethyl ester (12.3 mg, 32.5%).

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.0723 mmol, 30.6 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | ethyl acrylate | 0.728 mmol, 73.7 mg | C(C=C)(=O)OCC | C5H8O2
reactant | samarium(III) trifluoromethanesulfonate | 0.0572 mmol, 34.9 mg | FC(S(=O)(=O)[O-])(F)F.[Sm+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-propionic acid ethyl ester | 12.3 mg, 32.5% | C(C)OC(CCN1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)=O | C27H30Cl2F2N2O2
